US06262074B1
4-[(8-Chloroquinolin-5-yl)carbonyl]-5-(4-chlorophenylsulfonyloxy) -1-ethylpyrazole (compound 5.26)
1.00 g of 4-[(8-chloroquinolin-5-yl)carbonyl]-1-ethyl-5-hydroxy-pyrazole, 0.70 g of triethylamine and 0.70 g of 4-chlorobenzenesulfonyl chloride in 15 ml of methylene chloride were stirred at room temperature for 12 hours. The reaction mixture was then poured into aqueous sodium carbonate solution and extracted with ethyl acetate. The combined organic phases were dried and concentrated and the residue was purified by chromatograpy over silica gel.

reactant | 4-[(8-chloroquinolin-5-yl)carbonyl]-1-ethyl-5-hydroxy-pyrazole | 1.00 g | ClC=1C=CC(=C2C=CC=NC12)C(=O)C=1C=NN(C1O)CC | C15H12ClN3O2
reactant | triethylamine | 0.70 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 0.70 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 4-[(8-Chloroquinolin-5-yl)carbonyl]-5-(4-chlorophenylsulfonyloxy) -1-ethylpyrazole | ClC=1C=CC(=C2C=CC=NC12)C(=O)C=1C=NN(C1OS(=O)(=O)C1=CC=C(C=C1)Cl)CC | C21H15Cl2N3O4S
